US08685969B2
3. (E)-Benzyl 2-fluoro-3-(2-nitrovinyl)phenylcarbamate
A solution of benzyl 2-fluoro-3-formylphenylcarbamate (4.0253 g, 14.73 mmol), nitromethane (1.98 mL, 36.8 mmol) and nitromethane (1.979 mL, 36.8 mmol) in acetic acid (49.1 mL) under nitrogen was heated at 90° C. After 2 hr, the reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in CH2Cl2 (75 mL) and water (75 mL), and Na2CO3 (s) was added until pH basic by litmus paper. After separation of layers, the aqueous layer was extracted with CH2Cl2 (3×75 mL). The organic layers were combined and washed with brine (50 mL), dried over MgSO4, and concentrated in vacuo to give the desired product (4.251 g, 10.08 mmol, 68.4% yield) as a burgundy oil.

reactant | benzyl 2-fluoro-3-formylphenylcarbamate | 14.73 mmol, 4.0253 g | FC1=C(C=CC=C1C=O)NC(OCC1=CC=CC=C1)=O | C15H12FNO3
reactant | nitromethane | 36.8 mmol, 1.98 mL | [N+](=O)([O-])C | CH3NO2
reactant | nitromethane | 36.8 mmol, 1.979 mL | [N+](=O)([O-])C | CH3NO2
solvent | acetic acid | 49.1 mL | C(C)(=O)O | C2H4O2
product | (E)-Benzyl 2-fluoro-3-(2-nitrovinyl)phenylcarbamate | 10.08 mmol, 4.251 g, 68.4% yield | FC1=C(C=CC=C1\C=C\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C16H13FN2O4
